US08044206B2
Under ice cooling, 5 drops of dimethylformamide and 0.75 ml of thionyl chloride were added to a solution of 1.24 g of 2-chloro-6-methylbenzyl alcohol in 15 ml of toluene. The mixture was stirred at ambient temperature for 2 hours. The reaction mixture was concentrated under reduced pressure and the residue was then azeotropically distilled with 5 ml of toluene 3 times to give an oil. The resulting oil was dissolved in 15 ml of acetonitrile, and 2.08 g of triphenylphosphine was added to the solution. The mixture was heated under reflux for 16 hours. The reaction mixture was concentrated under reduced pressure and the collected crystals were washed with ethyl acetate to give 3.15 g of (2-chloro-6-methylbenzyl)(triphenyl)phosphonium chloride as colorless crystals.

reactant | thionyl chloride | 0.75 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-chloro-6-methylbenzyl alcohol | 1.24 g | ClC1=C(CO)C(=CC=C1)C | C8H9ClO
reactant | triphenylphosphine | 2.08 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | dimethylformamide | 5 drops | CN(C=O)C | C3H7NO
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | (2-chloro-6-methylbenzyl)(triphenyl)phosphonium chloride | 3.15 g | [Cl-].ClC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=CC=C1)C | InChI=1S/C26H23ClP.ClH/c1-21-12-11-19-26(27)25(21)20-28(22-13-5-2-6-14-22,23-15-7-3-8-16-23)24-17-9-4-10-18-24;/h2-19H,20H2,1H3;1H/q+1;/p-1
